US07112582B2
Conc. HCl (1.96 mL) and NaNO2 (2.2 g) were added to the H2O (21 mL) solution of DL-pipecolic acid (3.04 g) under a nitrogen atmosphere at 0° C. and stirred for 1 h. The solution was extracted with CH2Cl2 and organic layer was washed with brine. The mixture was dried over Na2SO4 and concentrated under reduced pressure to afford crude (2RS)-1-nitrosopiperidine-2-carboxylic acid as pale yellow crystals.

reactant | HCl | 1.96 mL | Cl | ClH
reactant | NaNO2 | 2.2 g | N(=O)[O-].[Na+]
reactant | DL-pipecolic acid | 3.04 g | C1CCNC(C1)C(=O)O | C6H11NO2
solvent | H2O | 21 mL | O | H2O
product | (2RS)-1-nitrosopiperidine-2-carboxylic acid | N(=O)N1C(CCCC1)C(=O)O | C6H10N2O3
